US07964643B2
4′-Cyanobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-262)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-cyanophenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 22.6, 28.9, 32.0, 42.6, 60.5, 111.0, 118.7, 127.3 127.0, 127.9, 128.1, 133.0, 140.6, 141.9 and 143.1.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-cyanophenyl boronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4′-Cyanobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C18H20N2O3S
